US04607117
In the case where 1.0 g of the present compound, methyl 2-(2-hydroperoxy-2-propyl)naphthalene-6-carboxylate are heated in 10.0 g of acetone for 30 min at a temperature between 50° and 70° C. in the presence of 0.02 g of sulfuric acid as a catalyst, methyl 2-hydroxynaphthalene-6-carboxylate is formed nearly quantitatively. The thus formed compound is hydrolyzed nearly quantitatively into 2-hydroxynaphthalene-6-carboxylic acid (acid-6) by heating the thus formed compound for 30 min at a temperature between 20° and 50° C. in an aqueous about 1N alkali solution.

reactant | methyl 2-(2-hydroperoxy-2-propyl)naphthalene-6-carboxylate | O(O)C(C)(C)C1=CC2=CC=C(C=C2C=C1)C(=O)OC | C15H16O4
reactant | acetone | 10.0 g | CC(=O)C | C3H6O
catalyst | sulfuric acid | 0.02 g | S(O)(O)(=O)=O | H2O4S
product | methyl 2-hydroxynaphthalene-6-carboxylate | OC1=CC2=CC=C(C=C2C=C1)C(=O)OC | C12H10O3
